US05149717
a) (2R,3S)-2,3-epoxy-3-(3-trifluoromethylphenyl)-propanal
The title compound is prepared analogously to Example 5a) from (2S,3S)-2,3-epoxy-3-(3-trifluoromethylphenyl)-propanol. Light-yellow liquid; IR (CH2Cl2): 2820, 1730, 1330, 1165, 1130, 1070 cm-1 ; [α]D20 (chloroform, 0.20%)=0.0°±5°; [α]36520 (chloroform, 0.20%)=475.0°±5.0°; Rf =0.44 (hexane/ethyl acetate 7:3).

reactant | (2S,3S)-2,3-epoxy-3-(3-trifluoromethylphenyl)-propanol | O1[C@@H](CO)[C@@H]1C1=CC(=CC=C1)C(F)(F)F | C10H9F3O2
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | (2R,3S)-2,3-epoxy-3-(3-trifluoromethylphenyl)-propanal | O1[C@@H](C=O)[C@@H]1C1=CC(=CC=C1)C(F)(F)F | C10H7F3O2
